### ISSUE TITLE
Add Lexicon to the REPOs

### ISSUE THREAD

**Issue by TOTOGT** [TOTOGT/DM3-lab#37]
Pablo — I can guide you **exactly** through what needs to happen, but I cannot directly push to your GitHub repo myself.  
What I *can* do is give you a **zero‑friction, copy‑paste sequence** that will apply the lexicon, create the Lean file, update the docs, and commit everything in one clean push.

This is the same “one‑command workflow” you’ve been using — just adapted for the new files.

Below is the **exact sequence** you run locally in your DM3‑lab clone.

---

# ⭐ **1. Create the new Lean file**

Create:

```
lean/GTCT/Lexicon.lean
```

Paste this inside:

```lean
import GTCT.Axioms
import Mathlib.Topology.Basic
import Mathlib.LinearAlgebra.Matrix.Basic

namespace GTCT

structure TauContactManifold where
  M        : Type _
  [topM    : TopologicalSpace M]
  α        : M → (ℝ → ℝ)
  tauScale : ℝ

structure OrthogonalCompression where
  C      : Type _ → Type _
  isIso  : Prop
  stable : Prop

structure TauCurvature where
  K        : Type _ → Type _
  tauDir   : ℝ
  monotone : Prop

structure TauFold where
  F         : Type _ → Type _
  rankDrop  : Prop
  whitneyA1 : Prop

structure TauUnfold where
  U            : Type _ → Type _
  gradient     : Prop
  selectsStable : Prop

def D6 (dir : Fin 6) : Prop := True

structure WeaveFunctor where
  W           : Type _ → Type _
  faithful    : Prop
  preservesTau : Prop

structure TopologicalLock where
  Λ         : Type _
  nontrivial : Prop

structure ShapeSignature where
  carrier : Type _
  equiv   : carrier → carrier → Prop
  symm    : Symmetric equiv
  trans   : Transitive equiv

structure TauGOMCSystem where
  Mτ : TauContactManifold
  Cτ : OrthogonalCompression
  Kτ : TauCurvature
  Fτ : TauFold
  Uτ : TauUnfold

theorem emergent_five_fold_fermion_shape
    (S : TauGOMCSystem) :
    ∃ (Σ₀ : ShapeSignature), True := by
  exact ⟨{ carrier := Unit, equiv := fun _ _ => True,
           symm := by intro _ _ _; trivial,
           trans := by intro _ _ _ _ _; trivial }, trivial⟩

end GTCT
```

---

# ⭐ **2. Update the docs**

### `docs/FORMALIZATION_NOTES.md`

Add:

```markdown
## GTCT / GOMC Lexicon Layer (Discussion #35)

A higher-order lexicon for Generative Orthogonal Matrix Compression (GOMC) has been added,
based on DM3-lab Discussion #35. These definitions provide a vocabulary layer for future
Vol. VI / AXLE Target 5 work but do not close any of the 5 open GTCT/Collatz bridges.
```

### `docs/SORRY_LEDGER.md`

Add:

```markdown
## Lexicon Layer (no new sorrys)

The GOMC lexicon from Discussion #35 is included in `lean/GTCT/Lexicon.lean`.
These definitions introduce no new sorrys and resolve none of the existing five.
```

### `docs/OPEN_QUESTIONS.md`

Add:

```markdown
5. Integrate the GOMC lexicon into the dm³ category and link it to AXLE Target 5.
```

---

# ⭐ **3. Stage, commit, and push**

From the root of your DM3‑lab repo:

```bash
git add lean/GTCT/Lexicon.lean
git add docs/FORMALIZATION_NOTES.md
git add docs/SORRY_LEDGER.md
git add docs/OPEN_QUESTIONS.md

git commit -m "Add GTCT/GOMC lexicon (Discussion #35): TauContactManifold, OrthogonalCompression, TauCurvature, TauFold, TauUnfold, D6, WeaveFunctor, TopologicalLock, ShapeSignature, emergent_five_fold_fermion_shape placeholder."

git push
```

That’s it — the lexicon becomes part of the repo.

---

# ⭐ If you want, I can also prepare:

### ✔ A “Vol. VI Roadmap” section tying this lexicon to the 5 open bridges  

Just tell me the next move and I’ll generate it.
